US06605323B1
A solution of 48 mmol of 1-bromo-4-heptylbenzene in 155 ml of toluene is admixed with 48 mmol of 2-fluoro-6-(4-nonylphenyl)pyridine-3-boronic acid, 77 ml of ethanol, a solution of 96 mmol of sodium carbonate in 77 ml of water and 0.5 mmol of tetrakis(triphenylphosphine)palladium(0) at room temperature. The mixture is heated at the boil for 7 h. After cooling, the phases are separated, the aqueous phase is extracted with tert-butyl methyl ether and the combined organic phases are washed with water and saturated sodium chloride solution and dried with sodium sulfate. The solvents are then removed under reduced pressure and the raw product is purified by column chromatography over silica gel 60 using n-heptane as eluent and recrystallization from acetone, giving 8.9 g (39%) of 2-fluoro-3-(4-heptylphenyl)-6-(4-nonylphenyl)pyridine; X 42 S3 56 SC 136.1 S2 136.7 N 137 I.

reactant | 1-bromo-4-heptylbenzene | 48 mmol | BrC1=CC=C(C=C1)CCCCCCC | C13H19Br
reactant | 2-fluoro-6-(4-nonylphenyl)pyridine-3-boronic acid | 48 mmol | FC1=NC(=CC=C1B(O)O)C1=CC=C(C=C1)CCCCCCCCC | C20H27BFNO2
reactant | ethanol | 77 ml | C(C)O | C2H6O
reactant | sodium carbonate | 96 mmol | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 155 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 77 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.5 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-fluoro-3-(4-heptylphenyl)-6-(4-nonylphenyl)pyridine | 8.9 g, 39% | FC1=NC(=CC=C1C1=CC=C(C=C1)CCCCCCC)C1=CC=C(C=C1)CCCCCCCCC | C33H44FN
